US04638005
1.0 g of 1-methyl-3-(2-carbomethoxyethyl)pyrazinium iodide was dissolved in 30 ml of 2N HCl and refluxed overnight. It was then concentrated, taken up in 100 ml of water and washed with methylene chloride. Concentration of the aqueous solution gave 0.55 g of 1-methyl-3-(2-carboxyethyl)pyrazinium iodide (3900) as an amorphous solid. UV H2O max: 226 (4.12), 281 (3.85).

reactant | 1-methyl-3-(2-carbomethoxyethyl)pyrazinium iodide | 1.0 g | [I-].C[N+]1=CC(=NC=C1)CCC(=O)OC
solvent | HCl | 2N, 30 ml | Cl | ClH
product | 1-methyl-3-(2-carboxyethyl)pyrazinium iodide | 0.55 g | [I-].C[N+]1=CC(=NC=C1)CCC(=O)O | InChI=1S/C8H10N2O2.HI/c1-10-5-4-9-7(6-10)2-3-8(11)12;/h4-6H,2-3H2,1H3;1H
